US07250442B2
(4-Bromo-2,6-dimethyl-phenoxy)-tert-butyl-dimethyl-silane
Dissolve 4-bromo-2,6-dimethylphenol (30.16 g, 150 mmol) and imidazole (26.6 g, 390 mmol) in CH2Cl2. Added t-butyldimethylchlorosilane (36.17 g, 240 mmol) and stirred mechanically for 3 h. The solids were vacuum filtered and the filtrate concentrated. Suspended the resulting residue in water and extracted with ethyl acetate (2×150 mL). The combined organic portions were washed with water (150 mL) and brine (150 mL) and then dried (Na2SO4), filtered and concentrated in vacuo to give a light brown oil. Purify on a Waters Prep 2000 LC (hexanes) to give 40.96 g of the title compound as a clear liquid. 1H NMR(CDCl3): δ6.91 (s, 2H), 2.00 (s, 6H), 0.86 (s, 9H), 0.01 (s, 6H).

reactant | 4-bromo-2,6-dimethylphenol | 150 mmol, 30.16 g | BrC1=CC(=C(C(=C1)C)O)C | C8H9BrO
reactant | imidazole | 390 mmol, 26.6 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylchlorosilane | 240 mmol, 36.17 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (4-Bromo-2,6-dimethyl-phenoxy)-tert-butyl-dimethyl-silane | 40.96 g | BrC1=CC(=C(O[Si](C)(C)C(C)(C)C)C(=C1)C)C | C14H23BrOSi
